US08008481B2
A suspension of 3-iodo-5-nitro-1H-indazole (2.0 g, 6.92 mmol) in stabilized hydroiodic acid (57% wt aqueous solution, 21 mL) was heated at about 90° C. for about 2 hours. The reaction mixture became homogeneous as the reaction progressed. After cooling to ambient temperature, the dark purple mixture was diluted with EtOAc (500 mL) and washed successively with saturated aqueous sodium thiosulfate (200 mL), saturated aqueous NaHCO3 (200 mL) and brine (200 mL). The colorless organic layer was dried over anhydrous magnesium sulfate, and concentrated to dryness to give 3-iodo-1H-indazol-5-ylamine: 1H NMR (DMSO-d6, 400 MHz) 13.03 (s, 1H), 7.26 (d, 1H), 6.85 (m, 1H), 6.44 (d, 1H), 5.03 (s, 2H); LC/MS (30% to 95% acetonitrile/0.01M aqueous ammonium acetate over 4.5 min at 0.8 mL/min; λ=190-700 nm; Genesis C18, 3 μm, 30×4.6 mm column; Electrospray ionization method observing both +ve and −ve ions) Rt 1.25 min.; m/z: 260 (M+H)+.

reactant | 3-iodo-5-nitro-1H-indazole | 6.92 mmol, 2.0 g | IC1=NNC2=CC=C(C=C12)[N+](=O)[O-] | C7H4IN3O2
solvent | hydroiodic acid | 21 mL | I | HI
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | 3-iodo-1H-indazol-5-ylamine | IC1=NNC2=CC=C(C=C12)N | C7H6IN3
